US05110815
N,2-Bis(phenylmethoxy)-5,6,7,8-tetrahydro-N,5-dimethyl-5-quinolinamine
Methyllithium (1.4M in diethyl ether, 37.7 ml) was added dropwise over 20 min to a solution of N,2-bis(phenylmethoxy)-5,6,7,8-tetrahydro-5-methyl-5-quinolinamine (18.1 g) and tetrahydrofuran (20 ml) at -78° C. The mixture was allowed to warm to room temperature over 2 hrs and was stirred at room temperature for an additional 1 hr. The solution was quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous potassium carbonate, filtered, and the filtrate was concentrated. The residue was purified by high performance liquid chromatography (silica gel, elution with ethyl acetate-hexanes) to provide 12.3 g (65%) of product.

reactant | Methyllithium | 1.4M, 37.7 ml | C[Li]
reactant | N,2-bis(phenylmethoxy)-5,6,7,8-tetrahydro-5-methyl-5-quinolinamine | 18.1 g | C1(=CC=CC=C1)CONC1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)C | C24H26N2O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N,2-Bis(phenylmethoxy)-5,6,7,8-tetrahydro-N,5-dimethyl-5-quinolinamine | 12.3 g, 65% | C1(=CC=CC=C1)CON(C1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)C)C | C25H28N2O2
